US07528147B2
But using 0.160 g of 2-[1-(2-{3-[4-chloro-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-2-yl]-5,6-dimethoxyindol-1-yl}ethyl)piperidin-4-yl]ethanol and 0.58 g of potassium hydroxide in 10 ml of methanol. After flash chromatography on a silica column [eluent: dichloromethane/methanol (80/20 by volume)], 0.078 g of 2-(1-{2-[3-(4-chloro-1H-pyrrolo[2,3-b]pyridin-2-yl)-5,6-dimethoxyindol-1-yl]ethyl}piperidin-4-yl)ethanol is thus obtained in the form of a solid, the characteristics of which are as follows:

reactant | 2-[1-(2-{3-[4-chloro-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-2-yl]-5,6-dimethoxyindol-1-yl}ethyl)piperidin-4-yl]ethanol | 0.160 g | ClC1=C2C(=NC=C1)N(C(=C2)C2=CN(C1=CC(=C(C=C21)OC)OC)CCN2CCC(CC2)CCO)S(=O)(=O)C2=CC=C(C=C2)C | C33H37ClN4O5S
reactant | potassium hydroxide | 0.58 g | [OH-].[K+]
reactant | dichloromethane methanol | ClCCl.CO
solvent | methanol | 10 ml | CO | CH4O
product | 2-(1-{2-[3-(4-chloro-1H-pyrrolo[2,3-b]pyridin-2-yl)-5,6-dimethoxyindol-1-yl]ethyl}piperidin-4-yl)ethanol | 0.078 g | ClC1=C2C(=NC=C1)NC(=C2)C2=CN(C1=CC(=C(C=C21)OC)OC)CCN2CCC(CC2)CCO | C26H31ClN4O3
